US06989392B2
4-((4-((2-aminoquinolin-8-yl)oxy)pentyl)oxy)benzonitrile
The title compound was prepared according to the procedure described in Example 92 substituting 4-cyanophenol for methyl 3-hydroxybenzoate. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.36 (d, 1H), 7.70 (m, 2H), 7.44 (m, 3H), 7.12 (d, 1H), 7.00 (m, 2H), 4.84 (m, 1H), 4.12 (m, 2H), 1.74–2.05 (m, 4H), 1.40 (d, 3H); MS (DCI/NH3) m/z 348 [M+H]+.

reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | NH3 | N | H3N
product | 4-((4-((2-aminoquinolin-8-yl)oxy)pentyl)oxy)benzonitrile | NC1=NC2=C(C=CC=C2C=C1)OC(CCCOC1=CC=C(C#N)C=C1)C | C21H21N3O2
